US07326786B2
Similar procedure as described in example 1b was used, starting from 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one, 2-pyridin-4-yl-ethylamine and DIEA to give 2-(2-pyridin-4-yl-ethylamino)-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one. LC-MS m/e 361 (MH+).

reactant | 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | CSC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C14H10N2OS2
reactant | 2-pyridin-4-yl-ethylamine | N1=CC=C(C=C1)CCN | C7H10N2
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 2-(2-pyridin-4-yl-ethylamino)-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | N1=CC=C(C=C1)CCNC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C20H16N4OS
